US06555542B1
Part A. Benzyl (S)-2-cyanopyrrolidine-1-carboxylate (500 mg, 2.17 mmol) was dissolved in aqueous ethanol (3 mL) and water (1 mL). Hydroxylamine hydrochloride (152 mg, 2.17 mmol) and Na2CO3 (115 mg, 1.08 mmol) were added and the reaction mixture heated to 100° C. for 1 h. The ethanol was removed and the aqueous residue was extracted with dichloromethane (3×25 mL), dried over Na2SO4 decanted and concentrated yielding benzyl (S)-2-(N-hydroxycarbamimidoyl)pyrrolidine-1-carboxylate as a pale yellow gum (428 mg, 75% yield): HPLC (method 1) tR=1.40 min, Purity 76%; LCMS (method 4) tR=0.81 min, m/z 264 (M+H).

reactant | Benzyl (S)-2-cyanopyrrolidine-1-carboxylate | 2.17 mmol, 500 mg | C(#N)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C13H14N2O2
reactant | Hydroxylamine hydrochloride | 2.17 mmol, 152 mg | Cl.NO
reactant | Na2CO3 | 1.08 mmol, 115 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | benzyl (S)-2-(N-hydroxycarbamimidoyl)pyrrolidine-1-carboxylate | 428 mg, 75% yield | ONC(=N)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C13H17N3O3
